US03950333
N-Cyano-N'-methyl-N"-[3-(4-methyl-2-oxazolyl)thiopropyl]-guanidine
Reaction of N-methyl-N'-[3-(4-methyl-2-oxazolyl)thiopropyl]thiourea with lead cyanamide by the procedure of Example 121 gives the title compound.

reactant | N-methyl-N'-[3-(4-methyl-2-oxazolyl)thiopropyl]thiourea | CNC(=S)NCCCSC=1OC=C(N1)C | C9H15N3OS2
reactant | lead cyanamide | N#CN.[Pb]
product | N-Cyano-N'-methyl-N"-[3-(4-methyl-2-oxazolyl)thiopropyl]-guanidine | C(#N)NC(=NCCCSC=1OC=C(N1)C)NC | C10H15N5OS
